US05644028
To a solution of 3.0 g (12.9 mmol) of Boc-Thz-OH and 2.15 ml (15.5 mmol) of triethylamine in 25 ml of DMF, 2.02 ml (15.5 mmol) of isobutyl chloroformate was added dropwise at -15° C. After stirring for 10 min at that temperature. 4.06 ml (38.7 mmol) of tert-butylamine was added. The reaction mixture was stirred for 10 min at that temperature and 100 min under ice cooling, concentrated under reduced pressure, diluted with 50 ml of ethyl acetate, washed with 5% NaHCO3 aqueous solution, 5% citric acid aqueous solution, and saturated NaCl aqueous solution successively, dried over Na2SO4, and evaporated under reduced pressure to give 3.13 g (Y. 84%) of Boc-Thz-NH-tBu which was convened to Qoa-Mta-AHPBA-Thz-NH-tBu by a similar method with processes 2-5 of Example 3.

reactant | Boc-Thz-OH | 12.9 mmol, 3.0 g | N1([C@H](C(=O)O)CSC1)C(=O)OC(C)(C)C | C9H15NO4S
reactant | triethylamine | 15.5 mmol, 2.15 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 15.5 mmol, 2.02 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | tert-butylamine | 38.7 mmol, 4.06 ml | C(C)(C)(C)N | C4H11N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | Boc-Thz-NH-tBu | 3.13 g, 84% | N1([C@H](C(=O)NC(C)(C)C)CSC1)C(=O)OC(C)(C)C | C13H24N2O3S
